US08049015B2
2-(5-Bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzaldehyde and ethylamine (2M in THF) as described in Example 3, Step 3 to provide [2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amine.

reactant | 2-(5-Bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzaldehyde | BrC=1C=C(C(=NC1)OC)C1=C(C=O)C=C(C=C1)C(F)(F)F | C14H9BrF3NO2
reactant | ethylamine | 2M | C(C)N | C2H7N
product | [2-(5-bromo-2-methoxy-pyridin-3-yl)-5-trifluoromethyl-benzyl]-ethyl-amine | BrC=1C=C(C(=NC1)OC)C1=C(CNCC)C=C(C=C1)C(F)(F)F | C16H16BrF3N2O
